.subckt OPAMP_MY_OPAMP inp inn out vcc vee
* Behavioral model for MY_OPAMP
* GBW=1.0MHz, SR=1.5V/us, Vos=2.0mV, Aol=100.0dB
* Source: kicad-happy part library (Phase 2)
*
* Input stage
Rin inp inn 1T
Vos inp inp_os DC 0.002
*
* Gain stage: Aol=100000, pole at 10.0Hz → GBW=1.0MHz
E1 int 0 inp_os inn 100000
R1 int out_int 1
C1 out_int 0 15.92m
*
* Output stage with rail clamping
* Output swing: 1.5V from rails
Dhigh out_int vcc_int DLIMIT
Dlow vee_int out_int DLIMIT
Vswh vcc vcc_int DC 1.5
Vswl vee_int vee DC 1.5
.model DLIMIT D(IS=1e-14 N=0.1)
Eout out 0 out_int 0 1
.ends OPAMP_MY_OPAMP

